US08664217B2
4-Pyridinecarbaldehyde (1.18 ml, 12.5 mmol) and a catalytic amount of acetic acid were added to a 1,2-dichloroethane solution (40 ml) of 1-ethyl-3,3,5-trimethyl-7-[3-(2-pyridin-3-ylethylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione (4.44 g, 10.5 mmol), and stirred for 30 minutes. Sodium triacetoxyhydroborate (3.33 g, 15.7 mmol) was added to the resulting mixture, and stirred at room temperature overnight. The reaction mixture was diluted with dichloromethane, washed with water and a saturated sodium chloride aqueous solution in this order, then dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel flash chromatography (ethyl acetate:methanol=1:0→9:1). The purified product was concentrated under reduced pressure to thereby obtain 4.73 g (yield: 88%) of 1-ethyl-3,3,5-trimethyl-7-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione as a pale yellow oil.

reactant | 4-Pyridinecarbaldehyde | 12.5 mmol, 1.18 ml | N1=CC=C(C=C1)C=O | C6H5NO
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 1-ethyl-3,3,5-trimethyl-7-[3-(2-pyridin-3-ylethylamino)propoxy]-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 10.5 mmol, 4.44 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCNCCC=2C=NC=CC2 | C24H32N4O3
reactant | Sodium | [Na] | Na
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | 40 ml | ClCCCl | C2H4Cl2
product | 1-ethyl-3,3,5-trimethyl-7-{3-[(2-pyridin-3-ylethyl)pyridin-4-ylmethylamino]propoxy}-1,5-dihydrobenzo[b][1,4]diazepine-2,4-dione | 4.73 g, yield: 88% | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)OCCCN(CC2=CC=NC=C2)CCC=2C=NC=CC2 | C30H37N5O3
